US05198402
a) Synthesis of 4-hydroxy-N-n-butylphthalimide
In a 250-ml round bottom flask were placed 20.5 g (112.6 mmols) of 4-hydroxyphthalic acid, 8.2 g (112.6 mmols) of n-butylamine and 100 ml of absolute ethanol. After mixing, the resulting mixture generated heat gently. The mixture was sufficiently stirred until the solids were completely dissolved. The alcohol was distilled off under reduced pressure, after which the viscous liquid thus obtained was heated at 180° C. for about 3 hours with continuous extraction of water. After cooling, the residue was solidified. The solidified residue was dissolved in an ethyl acetatebenzene (1:1 by volume) mixed solvent, and the resulting solution was washed with water, an aqueous sodium carbonate solution and then water. The organic layer was dried over anhydrous magnesium sulfate, concentrated, and then cooled to obtain powder crystals having a slightly yellowish white color. The crystals were collected by suction filtration and dried. Yield: 18.5 g (75%), m.p. 126°-127° C. The product was determined to be 4-hydroxy-N-n-butylphthalimide by investigation of its structure by NMR and infrared absorption spectrum.

reactant | 4-hydroxyphthalic acid | 112.6 mmols, 20.5 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | n-butylamine | 112.6 mmols, 8.2 g | C(CCC)N | C4H11N
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-hydroxy-N-n-butylphthalimide | OC=1C=C2C(C(=O)N(C2=O)CCCC)=CC1 | C12H13NO3
